US08476297B2
Step 3: 4-Methyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline
A 250-mL round-bottomed flask was charged with N-(2-phenylpropyl)-4-(trifluoromethyl)benzamide (5.19 g, 16.9 mmol), phosphorous pentoxide (4.8 g, 33.8 mmol) and toluene (75 mL). The reaction mixture was heated at 110° C. overnight and allowed to cool down to RT. Then it was poured over ice-water and neutralized with NaOH (10%). The organic phase was separated and the aqueous phase was extracted several times with EtOAc. The combined organics were washed with satd. NaHCO3, water, brine and dried over Na2SO4. The solvent was removed under vacuum and the product used without further purification.

reactant | N-(2-phenylpropyl)-4-(trifluoromethyl)benzamide | 16.9 mmol, 5.19 g | C1(=CC=CC=C1)C(CNC(C1=CC=C(C=C1)C(F)(F)F)=O)C | C17H16F3NO
reactant | phosphorous pentoxide | 33.8 mmol, 4.8 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | NaOH | [OH-].[Na+]
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Methyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline | CC1CN=C(C2=CC=CC=C12)C1=CC=C(C=C1)C(F)(F)F | C17H14F3N
